US06103738
(a) Thiomorpholine-1,1-dioxide hydrochloride
2-Chioroethyl chloroformate (0.72 ml, 6.7 mmol) was added dropwise to a solution of 4-methylthiomorpholine-1,1-dioxide (1.0 g, 6.7 mmol) in toluene (10 ml) at 0C. under N2. After 10 min, the reaction was warmed and maintained at reflux for 2 h. On cooling, the reaction mixture was evaporated, partitioned between EtOAc and H2O, the organic layer separated and washed sequentially with dilute HCl and saturated brine, the organic layer dried over Na2SO4 and evaporated. The residue was taken up in MeOH (10 ml) and heated at reflux for 2 h, after which time the reaction mixture was evaporated and triturated with EtOAc to afford the subtitle compound (415 mg, 36%) as a solid. Rf 0.34 (CH2Cl2 /MeOH/0.88NH3 90/10/1, v/v). MS m/z 136 (MH+).

reactant | 2-Chioroethyl chloroformate | 6.7 mmol, 0.72 ml | ClC(=O)OCCCl | C3H4Cl2O2
reactant | 4-methylthiomorpholine-1,1-dioxide | 6.7 mmol, 1.0 g | CN1CCS(CC1)(=O)=O | C5H11NO2S
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | Thiomorpholine-1,1-dioxide hydrochloride | 415 mg, 36% | Cl.N1CCS(CC1)(=O)=O | InChI=1S/C4H9NO2S.ClH/c6-8(7)3-1-5-2-4-8;/h5H,1-4H2;1H
